US09120805B2
4-Fluoro-1H-pyrrole-2-carboxylic acid ethyl ester (1.57 g, 10.0 mmol) is dissolved in acetonitrile (10 ml), 1-chloromethyl-4-fluoro-1,4-diazoniabicyclo[2.2.2]octane bis(tetrafluoroborate) (Selectfluor™, 3.54 g, 10.0 mmol) is added and the mixture is irradiated in a Biotage Initiator microwave synthesizer for 5 minutes at 70° C. The reaction mixture is allowed to cool to room temperature and partitioned between water and dichloromethane. The organic phase is dried over sodium sulfate and evaporated. The residue is chromatographed on a silica gel column with cyclohexane/ethyl acetate as eluent to afford 4,5-difluoro-1H-pyrrole-2-carboxylic acid ethyl ester as white solid; HPLC/MS 1.78 (C), [M+H] 176; 1H NMR (500 MHz, DMSO-d6) δ [ppm] 12.93 (s, 1H), 6.67 (d, J=4.5 Hz, 1H), 4.22 (q, J=7.1 Hz, 2H), 1.26 (t, J=7.1 Hz, 3H).

reactant | 4-Fluoro-1H-pyrrole-2-carboxylic acid ethyl ester | 10.0 mmol, 1.57 g | C(C)OC(=O)C=1NC=C(C1)F | C7H8FNO2
reactant | 1-chloromethyl-4-fluoro-1,4-diazoniabicyclo[2.2.2]octane bis(tetrafluoroborate) | 10.0 mmol, 3.54 g | F[B-](F)(F)F.F[B-](F)(F)F.ClC[N+]12CC[N+](CC1)(CC2)F
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 4,5-difluoro-1H-pyrrole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC(=C(C1)F)F | C7H7F2NO2
